US06852749B1
Preparation of 4-Benzyl-1,2-diphenyl-4-hydroxy-3,5-pyrazolidinedione
Prepared from 4-benzyl-1,2-diphenyl-3,5-pyrazolidinedione (3.3 g; 9.6 mmol), 35% H2O2 (1.4 ml; 16.3 mmol), and acetic acid (50 ml) using the procedure of Example 10 to give 1.0 g (30%).

reactant | 4-benzyl-1,2-diphenyl-3,5-pyrazolidinedione | 9.6 mmol, 3.3 g | C(C1=CC=CC=C1)C1C(N(N(C1=O)C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H18N2O2
reactant | H2O2 | 16.3 mmol, 1.4 ml | OO | H2O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4-Benzyl-1,2-diphenyl-4-hydroxy-3,5-pyrazolidinedione | C(C1=CC=CC=C1)C1(C(N(N(C1=O)C1=CC=CC=C1)C1=CC=CC=C1)=O)O | C22H18N2O3
